US04710573
3-[1-[4,4-bis(4-Fluorophenyl)butyl]-4-piperidinyl]-1H-indazole
A solution of 8.0 g of 1-[4,4-bis(4-fluorophenyl)-1-butyl]-4-(2-fluorobenzoyl)piperidine and 110 ml of hydrazine hydrate was heated at 150° in an autoclave for 20 hrs, with stirring. The resultant solid was diluted with water, and the mixture extracted with dichloromethane. The dichloromethane was evaporated in vacuo to yield a solid. The solid was recrystallized from toluene to give 3.8 g (47.4%) of product, mp 154°-156° C.

reactant | 1-[4,4-bis(4-fluorophenyl)-1-butyl]-4-(2-fluorobenzoyl)piperidine | 8.0 g | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=C(C=CC=C1)F)=O)C1=CC=C(C=C1)F | C28H28F3NO
reactant | hydrazine hydrate | 110 ml | O.NN
solvent | water | O | H2O
product | 3-[1-[4,4-bis(4-Fluorophenyl)butyl]-4-piperidinyl]-1H-indazole | 3.8 g, 47.4% | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C1=NNC2=CC=CC=C12)C1=CC=C(C=C1)F | C28H29F2N3
